US04302460
A mixture of 7-methoxy-1-methyl-3-methylthio-4-quinolone (8.23 g.) glacial acetic acid (75 ml.) and hydrobromic acid (75 ml.) was stirred and boiled under reflux for 2 days. The mixture was cooled and poured into saturated aqueous sodium bicarbonate (500 ml.). The resulting precipitate was collected by filtration and dried to give 7-hydroxy-1-methyl-3-methylthio-4-quinolone, m.p. 285°-288°.

reactant | 7-methoxy-1-methyl-3-methylthio-4-quinolone | 8.23 g | COC1=CC=C2C(C(=CN(C2=C1)C)C)=S | C12H13NOS
reactant | hydrobromic acid | 75 ml | Br | BrH
reactant | sodium bicarbonate | 500 ml | C([O-])(O)=O.[Na+]
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 7-hydroxy-1-methyl-3-methylthio-4-quinolone | OC1=CC=C2C(C(=CN(C2=C1)C)C)=S | C11H11NOS
